US08835462B2
To a solution of tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-triisopropylsilyloxy-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (5.77 g, 9.07 mmol, 1.00 equiv) in THF (91 ml) was added tetrabutylammonium fluoride (TBAF; 1M in THF, 18 ml, 18 mmol, 2.0 equiv). The resulting solution was stirred at room temperature for 1.5 h, poured into 100 mL sat'd sodium chloride (NaCl), extracted with EtOAc (3×100 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated to provide an oil. Purification by automated silica gel column chromatography provided tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (3.15 g, 72.4%) as a solid white foam: IR (ATR) 3489, 2980, 2934, 1740, 1703, 1496, 1476, 1454, 1393, 1367, 1307, 1254, 1210, 1168, 1145, 1121, 1041, 909, 850, 729, 701 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.31-7.27 (m, 2H), 7.23-7.16 (m, 3H), 5.21 (dd, J=8.8, 4.8 Hz, 1H), 5.06-4.91 (m, 1H), 4.16 (dd, J=12.1, 4.8 Hz, 1H), 3.89 (dd, J=12.1, 8.8 Hz, 1H), 3.77 (d, J=9.9 Hz, 1H), 3.55-3.42 (m, 2H), 3.00 (dd, J=13.8, 5.0 Hz, 1H), 2.57 (dd, J=13.8, 9.4 Hz, 1H), 2.26 (d, J=7.8 Hz, 1H), 2.10 (s, 1H), 1.50 (s, 18H), 1.47 (d, J=6.5 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 169.75, 152.71, 139.53, 129.10, 128.49, 126.28, 83.15, 77.20, 76.51, 71.67, 57.69, 47.63, 36.34, 27.95, 18.58; HRMS-ESI (m/z) [M+Na]+ calc'd for C25H37NNaO8; 502.2411 found 502.2418.

reactant | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-triisopropylsilyloxy-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 9.07 mmol, 5.77 g, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O[Si](C(C)C)(C(C)C)C(C)C)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C34H57NO8Si
reactant | tetrabutylammonium fluoride | 18 mmol, 1M, 18 ml, 2.0 equiv | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | 100 mL | [Cl-].[Na+]
solvent | THF | 91 ml | C1CCOC1 | C4H8O
product | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 3.15 g, 72.4% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C25H37NO8
